US05902803
A mixture of 3.9 g of diethyl 1-[5-(N-ethylaminocarbonylmethyl)-1-oxoindan-2-yl]imidazole-2,4-dicarboxylate, 33.4 g of ammonium acetate and 200 ml of acetic acid is heated at reflux for 3 hours. The reaction mixture is evaporated on a rotary evaporator, 250 ml of distilled water are added to the evaporation residue and the residue is filtered. The solid obtained is washed with distilled water a number of times and dried in an oven. 2.2 g of ethyl 8-(N-ethylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate are obtained in the form of a light-brown solid melting above 300° C. (1H NMR spectrum in d6-DMSO, T=300K, δ in ppm (300 MHz): 1.05 (3H, t, J=6 Hz, CH3), 1.40 (3H, t, J=6 Hz, CH3), 3.12 (2H, m, NCH2), 3.48 (2H, s, CH2CO), 4.05 (2H, s, CH2), 4.40 (2H, q, J=6 Hz, CH2O), 7.32 (1H, d, J=8 Hz, arom. CH), 7.42 (1H, s, arom. CH), 7.83 (1H, d, J=8 Hz, arom. CH), 8.10 (1H, t, J=5 Hz, NH), 8.60 (1H, s, imidazole H)).

reactant | diethyl 1-[5-(N-ethylaminocarbonylmethyl)-1-oxoindan-2-yl]imidazole-2,4-dicarboxylate | 3.9 g | C(C)NC(=O)CC=1C=C2CC(C(C2=CC1)=O)N1C(=NC(=C1)C(=O)OCC)C(=O)OCC | C22H25N3O6
reactant | ammonium acetate | 33.4 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | ethyl 8-(N-ethylaminocarbonylmethyl)-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-2-carboxylate | 2.2 g | C(C)NC(=O)CC1=CC=2CC3=C(NC(C=4N3C=C(N4)C(=O)OCC)=O)C2C=C1 | C20H20N4O4
